US07371547B2
meliloti IFO14782/pVK601 obtained in Example 1 was cultured in a flask containing LBMCG containing 5 μg/ml of Tc for 17 hours at 30° C., and the cell suspension of the strain was prepared. A tube containing 5 ml of the reaction mixture composed of 150 μg/ml of NTG and 1.6 ×109 cells per ml in 50 mM Tris-HCl buffer (pH 8.0) was incubated with a reciprocal shaking (275 rpm) for 30 min at 30° C. The cells were washed twice with sterile saline and suspended in saline. 100 μl of the cell suspension was spread onto agar plates containing LBMCG containing 5 μg/ml of Tc, and then the plates were incubated for 2 days at 30° C. The cells grown on the plates were recovered in 7 ml of sterile saline, and the cell suspensions were serially diluted 10−1-10−7 in sterile saline and spread onto the same agar plates. To isolate amino acid requiring mutants, the growth of 1,136 colonies grown on LBMCG containing 5 μg/ml of Tc were tested on agar of a minimum medium (referred to as MM hereinafter) composed of 1% glucose, 0.22% NH4Cl, 0.06% K2HPO4, 0.06% KH2PO4, 0.04% MgSO4.7H2O, 0.02% CaCl2.2H2O, 0.04% NaCl, and the following metal salts, vitamins, and nucleic acids (per liter): 12 mg of FeCl3.6H2O, 4 mg of MnSO4.5H2O, 0.5 mg of H3BO3, 0.4 mg of Na2MoO4, 0.32 mg of ZnSO4.7H2O, 0.04 mg of CuSO4.5H2O, 0.002 mg of CoCl2.6H2O, 4 mg of calcium pantothenate, 3 mg of thiamin-HCl, 1.25 mg of riboflavine, 0.04 mg of biotin, 10 mg of hypoxanthine, 10 mg of guanine sulfate, 10 mg of thymine, and 10 mg of uracil containing 5 μg/ml of Tc. After incubation for 4 days at 30° C., 37 colonies indicating a poor or no growth were picked up to LBMCG agar containing 5 μg/ml of Tc, and the productivity of vitamin B6 was examined by flask fermentation. One loopful cells of 37 colonies and S. meliloti IFO14782/pVK601 (parent) were inoculated to tubes containing 8 ml of SM medium, and then the tubes were shaken on a reciprocal shaker (275 rpm) at 30° C. After shaking for 19 hours, each 4 ml of culture broth was transferred to 500-ml flasks with two baffles containing 200 ml of PM medium and shaken on a rotary shaker (180 rpm) at 30° C. After cultivation for 7 days, contents of vitamin B6 in the supernatant of each culture broth were quantified by HPLC. As a result, S. meliloti PY-C341K1 produced 171 mg of pyridoxol per liter and was 1.44 times higher than the parent, strain IFO14782/pVK601.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NH4Cl | [NH4+].[Cl-]
reactant | K2HPO4 | OP(=O)([O-])[O-].[K+].[K+]
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | NaCl | [Na+].[Cl-]
reactant | calcium pantothenate | 4 mg | C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-].[Ca+2].C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-]
reactant | thiamin-HCl | 3 mg | Cl.S1CC=CC=C1
reactant | riboflavine | 1.25 mg | CC=1C=C2C(=CC1C)N(C3=NC(=O)NC(=O)C3=N2)C[C@@H]([C@@H]([C@@H](CO)O)O)O | C17H20N4O6
reactant | biotin | 0.04 mg | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | hypoxanthine | 10 mg | N1C=NC=2N=CNC2C1=O | C5H4N4O
reactant | guanine sulfate | 10 mg | S(=O)(=O)(O)O.N1C(N)=NC=2N=CNC2C1=O
reactant | thymine | 10 mg | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | uracil | 10 mg | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | vitamin B6 | CC1=C(C(=C(C=N1)CO)CO)O.Cl
product | pyridoxol | 171 mg | CC1=NC=C(C(=C1O)CO)CO | C8H11NO3
